US08809012B2
Step 2: Synthesis of methyl 2-(N-octyloctanamido)acetate
Methyl 2-(octylamino)acetate (31.6 mg, 0.157 mmol) and n-octanoic acid (30.0 μL, 0.188 mmol) were dissolved in 1 mL of well-dried DCM under argon condition and EDC (90.3 mg, 0.471 mmol), HOBt (63.6 mg, 0.471 mmol) and DIPEA (135 μL, 0.785 mmol) were added. The reaction mixture was then stirred for 12 hours at room temperature. Upon completion of the reaction, the reaction was terminated by adding 5 mL of water and the reaction mixture was extracted with DCM (4 mL×4). The organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 44.7 mg (0.136 mmol, 87%) of the desired compound.

reactant | Methyl 2-(octylamino)acetate | 0.157 mmol, 31.6 mg | C(CCCCCCC)NCC(=O)OC | C11H23NO2
reactant | n-octanoic acid | 0.188 mmol, 30.0 μL | C(CCCCCCC)(=O)O | C8H16O2
reactant | EDC | 0.471 mmol, 90.3 mg
reactant | HOBt | 0.471 mmol, 63.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.785 mmol, 135 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(N-octyloctanamido)acetate | 0.136 mmol, 44.7 mg, 87% | C(CCCCCCC)N(C(CCCCCCC)=O)CC(=O)OC | C19H37NO3
